US08476297B2
2-Fluoro-6-(2-(trimethylsilyl)ethynyl)benzaldehyde (2.3 g, 10.5 mmol) was dissolved in ammonia (2M in methanol, 15 mL, 30 mmol) and the resulting mixture was heated at 80° C. in a sealed tube for 2.5 h. The solvent was removed under high vacuum and the resulting crude product purified by silica gel chromatography (20-30% EtOAc in hexanes) to give 8-fluoroisoquinoline as a pale yellow solid. MS (ESI, pos. ion) m/z: 148 (M+1).

reactant | 2-Fluoro-6-(2-(trimethylsilyl)ethynyl)benzaldehyde | 10.5 mmol, 2.3 g | FC1=C(C=O)C(=CC=C1)C#C[Si](C)(C)C | C12H13FOSi
reactant | ammonia | 30 mmol, 2M, 15 mL | N | H3N
product | 8-fluoroisoquinoline | FC=1C=CC=C2C=CN=CC12 | C9H6FN
